*****************************************************************
* NXP BUK7Y9R9-80E
*
* Polarity N-Channel
* Ratings 80V/9.900000E-003OHMS/88.4533647276301A
*
* Date Created Tue Feb 05 09:50:04 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y9R9-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 8000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00585600183178239 TC=0.0060451571463174,3.74943504051154E-05
RBD 9 4 0.00529996804788613 TC=0.0060451571463174,3.74943504051154E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.76600858814043e-09
RG 1 2 2.37663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -25	596.065
+ -20	596.002
+ -16	596.031
+ -10	595.911
+ -5	595.86
+ -4	595.945
+ -3	595.872
+ -2	595.941
+ -1	596.02
+ -0.5	592.576
+ -0.2	592.433
+ -0.1	592.422
+ 0	587.097
+ 0.1	543.881
+ 0.2	514.48
+ 0.5	445.386
+ 1	358.43
+ 2	257.836
+ 3	228.533
+ 4	214.154
+ 5	205.154
+ 6	198.297
+ 8	188.616
+ 10	181.463
+ 12	175.51
+ 15	168.303
+ 20	158.758
+ 25	151.327
+ 30	145.436
+ 50	132.424
+ 70	119.412



.MODEL MINT NMOS(Vto=4.28339753768619 Kp=1.504122e+002 Nfs=1340000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)


.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=4e-12
+ N=1 M=0.66 VJ=0.68 Fc=0.5 Cjo=1.582052e-09 Tt=2.4376e-08)

.ENDS

